US06117875
To a solution of 3-nitro-2-[3-[(E)-2-(3-pyridyl)vinyl]phenylamino]pyridine (2.22 g) in dichloromethane (70 ml) was added m-chloroperbenzoic acid (1.81 g). The mixture was stirred at room temperature for 1 hour, then poured into aqueous sodium bicarbonate and extracted with chloroform. The organic solution was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (8% methanol in chloroform) to give 3-nitro-2-[3-[(E)-2-(1-oxido-3-pyridyl)vinyl]phenylamino]pyridine (1.51 g).

reactant | 3-nitro-2-[3-[(E)-2-(3-pyridyl)vinyl]phenylamino]pyridine | 2.22 g | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C=1C=NC=CC1 | C18H14N4O2
reactant | m-chloroperbenzoic acid | 1.81 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-nitro-2-[3-[(E)-2-(1-oxido-3-pyridyl)vinyl]phenylamino]pyridine | 1.51 g | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C=1C=[N+](C=CC1)[O-] | C18H14N4O3
